US08431695B2
Preparation of 1-{4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzyl}-tetrahydro-pyrimidin-4-one
Using a procedure similar to that of Example 282, step 2, with 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and tetrahydro-pyrimidin-4-one as starting materials, 14 mg (4.5%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.60 (s, 2 H), 3.20 (t, 2 H), 2.95 (s, 2 H), 2.60 (t, 2 H); ES-MS m/z 529.29 [M+H]+, HPLC RT (min) 2.24.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CBr | C27H21BrN6
reactant | tetrahydro-pyrimidin-4-one | N1CNC(CC1)=O | C4H8N2O
product | 1-{4-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzyl}-tetrahydro-pyrimidin-4-one | 14 mg, 4.5% | NC1=NC=NN2C1=C(C=C2C2=CC=C(CN1CNC(CC1)=O)C=C2)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C31H28N8O
